US04555498
B. Preparation of Calcium 2-Ethylhexyloxide
To 7.2 g (0.1 mole) of calcium amide slurried in 100 ml of cyclohexane, there is added 23.5 g (28.2 ml, 0.18 moles) of 2-ethyl-1-hexanol gradually over a 10-15 minute period. Ammonia is given off throughout the addition. The mixture is heated to reflux for several hours to remove entrained ammonia, and is then cooled and filtered. The resultant clear, light amber solution is 0.8M in Ca.

reactant | calcium amide | 0.1 mole, 7.2 g | [NH2-].[NH2-].[Ca+2]
reactant | 2-ethyl-1-hexanol | 0.18 moles, 28.2 ml, 23.5 g | C(C)C(CO)CCCC | C8H18O
reactant | Ammonia | N | H3N
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | Calcium 2-Ethylhexyloxide | C(C)C(COCC(CCCC)CC)CCCC.[Ca] | InChI=1S/C16H34O.Ca/c1-5-9-11-15(7-3)13-17-14-16(8-4)12-10-6-2;/h15-16H,5-14H2,1-4H3;
